US04278808
3-(2-Hydroxyethoxy)-2-ethyl-propionic acid methyl ester
28 g 3-(2-hydroxyethoxy)-2-ethyl-acrylic acid methyl ester was hydrogenated in 100 ml methanol in the presence of 2 g 5% palladium-carbon catalyst at atmospheric pressure. 24 g 3-(2-hydroxyethoxy)-2-ethyl-propionic acid methyl ester boiling at 104°-107° C./0.1 torr (84% yield) was recovered from the filtered hydrogenation mixture after evaporation of the solvent and vacuum distillation and identified by its carbon content of 54.35% (54.54% calculated for C8H16O4).

reactant | 3-(2-hydroxyethoxy)-2-ethyl-acrylic acid methyl ester | 28 g | COC(C(=COCCO)CC)=O | C8H14O4
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 2 g | [C].[Pd]
product | 3-(2-Hydroxyethoxy)-2-ethyl-propionic acid methyl ester | COC(C(COCCO)CC)=O | C8H16O4
